US05593993
The starting material 3,4,5-trimethoxybenzylamine was prepared by reduction of 3,4,5-trimethoxybenzonitrile with cobalt chloride and sodium borohydride, according to the general method described by L. S. Heinzman in J. Am. Chem. Soc., 104, p. 6801 (1980).

reactant | 3,4,5-trimethoxybenzonitrile | COC=1C=C(C#N)C=C(C1OC)OC | C10H11NO3
reactant | sodium borohydride | [BH4-].[Na+]
catalyst | cobalt chloride | [Co](Cl)Cl
product | 3,4,5-trimethoxybenzylamine | COC=1C=C(CN)C=C(C1OC)OC | C10H15NO3
